US04826846
8-[3-[4-(1,2-Benzisothiazol-3-yl)-1-piperazinyl]propyloxy]-8-azaspiro[4.5]decan-7-one hydrochloride
To a solution prepared from 8-[3-[4-(1,2-benzisothiazol-3-yl)-1-piperazinyl]propyloxy]-7-hydroxy-8-azaspiro[4.5]decan-9-one (4.7 g), 80 ml of CH2Cl2 and 40 ml of trifluoroacetic acid was added triethylsilane (1.8 ml) dropwise. The mixture was stirred at room temperature. After 1.5 hours, no starting material remained as judged by TLC.

reactant | 8-[3-[4-(1,2-benzisothiazol-3-yl)-1-piperazinyl]propyloxy]-7-hydroxy-8-azaspiro[4.5]decan-9-one | 4.7 g | S1N=C(C2=C1C=CC=C2)N2CCN(CC2)CCCON2C(CC1(CCCC1)CC2=O)O | C23H32N4O3S
reactant | trifluoroacetic acid | 40 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | triethylsilane | 1.8 ml | C(C)[SiH](CC)CC | C6H16Si
reactant | CH2Cl2 | 80 ml | C(Cl)Cl | CH2Cl2
product | 8-[3-[4-(1,2-Benzisothiazol-3-yl)-1-piperazinyl]propyloxy]-8-azaspiro[4.5]decan-7-one hydrochloride | Cl.S1N=C(C2=C1C=CC=C2)N2CCN(CC2)CCCON2C(CC1(CCCC1)CC2)=O | InChI=1S/C23H32N4O2S.ClH/c28-21-18-23(8-3-4-9-23)10-12-27(21)29-17-5-11-25-13-15-26(16-14-25)22-19-6-1-2-7-20(19)30-24-22;/h1-2,6-7H,3-5,8-18H2;1H
